US04122090
N,N-Diethyl-N'-phenylurea
0.93 g of aniline is added to 3.26 g of 2,4-carbonyldioxy-2,5-diphenylthiophene-1,1-dioxide in 25 ml of dry tetrahydrofuran. The mixture is left to stand for 30 minutes at 20° C., 0.73 g of diethylamine is added and the mixture is left to stand for a further 40 minutes. After distilling off the tetrahydrofuran, the residue is taken up in chloroform and the chloroform solution is washed successively with aqueous 1N hydrochloric acid and twice with aqueous sodium carbonate solution and water. After drying over magnesium sulfate and evaporating under reduced pressure, 1.4 g of slightly yellowish crystals which, as the crude product, have a melting point of 81°-85° C. (melting point quoted in the literature of 85° C.) remain.

reactant | aniline | 0.93 g | NC1=CC=CC=C1 | C6H7N
reactant | diethylamine | 0.73 g | C(C)NCC | C4H11N
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N,N-Diethyl-N'-phenylurea | C(C)N(C(=O)NC1=CC=CC=C1)CC | C11H16N2O
